US06638929B2
A mixture of 436 mg (1.03 mmol) of 4-(3-bromoanilino)-8-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile, 291 mg (5.19 mmol) of iron powder and 416 mg (7.77 mmol) of ammonium chloride in 160 mL of methanol and 110 mL of water is heated at reflux for 5.5 hours. The reaction mixture is filtered hot and the solid residue is extracted with several portions of hot ethyl acetate followed by hot methanol. All the organic layers are combined and washed with water. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. Diethyl ether and hexane are added and the solid is collected by filtration to provide 87 mg of 8-amino-4-(3-bromoanilino)-[1]benzothieno[3,2-b]pyridine-3-carbonitrile. The filtrate is concentrated and purified by flash chromatography, eluting with a gradient of 1:1 hexane/ethyl acetate to 100% ethyl acetate to give an additional 56 mg of 8-amino-4-(3-bromoanilino)-[1]benzothieno[3,2-b]pyridine-3-carbonitrile as a bright yellow solid, mp 295-300° C. dec.

reactant | 4-(3-bromoanilino)-8-nitro[1]benzothieno[3,2-b]pyridine-3-carbonitrile | 1.03 mmol, 436 mg | BrC=1C=C(NC2=C3C(=NC=C2C#N)C2=C(S3)C=CC(=C2)[N+](=O)[O-])C=CC1 | C18H9BrN4O2S
reactant | ammonium chloride | 7.77 mmol, 416 mg | [Cl-].[NH4+]
solvent | methanol | 160 mL | CO | CH4O
solvent | water | 110 mL | O | H2O
catalyst | iron | 5.19 mmol, 291 mg | [Fe] | Fe
product | 8-amino-4-(3-bromoanilino)-[1]benzothieno[3,2-b]pyridine-3-carbonitrile | 87 mg | NC=1C=CC2=C(C1)C1=NC=C(C(=C1S2)NC2=CC(=CC=C2)Br)C#N | C18H11BrN4S
